US08895588B2
ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfanyl]-1H-pyrazole-3-carboxylate
A solution of ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate (575 mg), 3-methylbenzenethiol (224 mg) and sodium carbonate (238 mg) in toluene (7.5 mL) was sufficiently deaerated, tris(dibenzylideneacetone)dipalladium(0) (41 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (52 mg) were added, and the mixture was further deaerated. Under an argon atmosphere at 130° C., the mixture was stirred for 28 hr and allowed to cool to room temperature. Ethyl acetate was added and the mixture was filtered through a basic silica gel pad. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a crude yellow oil (yield 334 mg).

reactant | ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | 575 mg | FC1=NC=CC=C1N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C12H9F4N3O5S
reactant | 3-methylbenzenethiol | 224 mg | CC=1C=C(C=CC1)S | C7H8S
reactant | sodium carbonate | 238 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 41 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfanyl]-1H-pyrazole-3-carboxylate | FC1=NC=CC=C1N1N=C(C=C1SC1=CC(=CC=C1)C)C(=O)OCC | C18H16FN3O2S
